US08975277B2
(R)-5-(1-Methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2-piperidin-4-yl-2,3-dihydro-furo[2,3-c]pyridine
Trifluoroacetic acid (2 mL) is added to a solution of (R)-4-[5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester (1.0 g) in dichloromethane (10 mL) at room temperature. The solution is stirred at room temperature overnight and then diluted with dichloromethane, 2 N aqueous NaOH solution, and saturated aqueous Na2CO3 solution. The resulting mixture is vigorously stirred for 20 min and then extracted with dichloromethane. The combined extract is dried (Na2SO4) and concentrated to give the title compound. Mass spectrum (ESI+): m/z=364 [M+H]+.

reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (R)-4-[5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)[C@H]1CC=2C(=CN=C(C2)C=2CCN(CC2)S(=O)(=O)C)O1 | C23H33N3O5S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | NaOH | 2 N | [OH-].[Na+]
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | (R)-5-(1-Methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2-piperidin-4-yl-2,3-dihydro-furo[2,3-c]pyridine | CS(=O)(=O)N1CCC(=CC1)C=1C=C2C(=CN1)O[C@H](C2)C2CCNCC2 | C18H25N3O3S
